US04657579
N-Propargyl-N-(4,6-dimethylpyrimidin-5-yl)-chloroacetamide
A mixture of 5.0 g (0.025 mol) N-(4,6-dimethylpyrimidin-5-yl)-chloroacetamide and 1.0 g tetrabutylammoniumchloride in 150 ml CH2Cl2 and 6.0 g propargylbromide is cooled to 8°, and 15 ml 50% aqueous NaOH are added dropwise thereto, whereby the temperature gradually rises to 20°. The reaction temperature is maintained at 18° to 20° with cooling. The mixture is stirred during 21/2 hours and then diluted with 100 ml H2O. The organic phase is separated off and dried over Na2SO4. The dried solution is evaporated to give a brown powder that is chromatographed on silica gel with the aid of diethylether (Rf=0.15), yielding the title compound in the form of white crystals m.p. 122°-123°.

reactant | N-(4,6-dimethylpyrimidin-5-yl)-chloroacetamide | 0.025 mol, 5.0 g | CC1=NC=NC(=C1NC(CCl)=O)C | C8H10ClN3O
reactant | propargylbromide | 6.0 g | C(C#C)Br | C3H3Br
reactant | NaOH | 15 ml | [OH-].[Na+]
catalyst | tetrabutylammoniumchloride | 1.0 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | 100 ml | O | H2O
product | N-Propargyl-N-(4,6-dimethylpyrimidin-5-yl)-chloroacetamide | C(C#C)N(C(CCl)=O)C=1C(=NC=NC1C)C | C11H12ClN3O
